US07723369B2
5-{3-[4-(2,4-Dichloro-phenyl)-2-(4-iodo-benzyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (3.2 g, 5 mmol) was treated as described in general procedure G using 4-bromophenylboronic acid (2.0 g, 10 mmol) to give 5-{3-[2-(4′-bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{3-[4-(2,4-Dichloro-phenyl)-2-(4-iodo-benzyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 5 mmol, 3.2 g | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C=1C=C(C=CC1)N1CC(NS1(=O)=O)=O)CC1=CC=C(C=C1)I | C24H17Cl2IN4O3S
reactant | 4-bromophenylboronic acid | 10 mmol, 2.0 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
product | 5-{3-[2-(4′-bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C=1C=C(C=CC1)N1CC(NS1(=O)=O)=O | C30H21BrCl2N4O3S
